US06310056B1
pivaloyloxymethyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(5-methylimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate
To a solution of 46.8 mg of (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(5-methylimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylic acid 5 ml of water was added 134 ml of a 0.1 N aqueous sodium hydrogen carbonate solution. The mixture was lyophilized, dissolved in 1 ml of DMF, added with 0.034 ml of pivaloyloxymethyl iodide under the atmosphere of argon at −30° C., and stirred at the same temperature for 1.5 hours. The reaction mixture was diluted with 50 ml of ethyl acetate, and washed with 50 ml of semi-saturated aqueous saline. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to a volume of 1 ml. The residue thus obtained was purified by column chromatography on silica gel (dichloromethane:methanol=20:1) and on Sephadex LH-20(chloroform:methanol=1:1) in this sequence to give 44.5 mg of the title compound.

reactant | (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(5-methylimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylic acid | 5 ml, 46.8 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=CN=C3C)C(=O)O)C1=O | C16H17N3O4S
reactant | water | O | H2O
reactant | sodium hydrogen carbonate | 0.1 N | C(O)([O-])=O.[Na+]
reactant | pivaloyloxymethyl iodide | 0.034 ml | C(C(C)(C)C)(=O)OCI | C6H11IO2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | pivaloyloxymethyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(5-methylimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate | 44.5 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=CN=C3C)C(=O)OCOC(C(C)(C)C)=O)C1=O | C22H27N3O6S
